US05814508
A 100-mL portion of the filtrate containing the 4-cyano-4-pentenoic acid ammonium salt product mixture described above was adjusted to pH 2.7 with 6N HCl, then saturated with sodium chloride and extracted with 4×100 mL of ethyl ether. The combined organic extracts were dried over magnesium sulfate, filtered, and the volume of the combined extracts reduced to 100 mL by rotary evaporation at reduced pressure at 28° C. To the ether solution was added 200 mL of hexane, and the resulting solution cooled to -78° C. The resulting white solid which crystallized was isolated by rapid vacuum filtration and washing with 100 mL of cold (5° C.) hexane. Residual solvent was removed under high vacuum (150 millitorr) to yield 9.80 g (60% isolated yield) of 4-cyano-4-pentenoic acid (m.p. 26.5°-27.0° C., stored at -20° C.).

reactant | 4-cyano-4-pentenoic acid ammonium salt | [NH4+].C(#N)C(CCC(=O)[O-])=C
reactant | HCl | 6N | Cl | ClH
product | 4-cyano-4-pentenoic acid | 9.80 g, 60% | C(#N)C(CCC(=O)O)=C | C6H7NO2
